US04420613
90 g (0.5 mole) of 3,3-dimethyl-2,3-dihydro-4H-1,4-benzothiazine, 500 ml of toluene, 3.2 g of concentrated sulphuric acid and 27.5 g (0.25 mole) of tetrahydrobenzaldehyde are refluxed for 5 hours, washed with water, the organic phase dried and the solvent removed in vacuo. Unreacted 3,3-dimethyl-2,3-dihydro-4H-1,4-benzothiazine is distilled off under a high vacuum, leaving as residue 1-cyclohex-3-enyl-1,1-di-(3,3-dimethyl-2,3-dihydro-4H-1,4-benzothiazin-7-yl)-methane in the form of a dark brown brittle resin.

reactant | 3,3-dimethyl-2,3-dihydro-4H-1,4-benzothiazine | 0.5 mole, 90 g | CC1(CSC2=C(N1)C=CC=C2)C | C10H13NS
reactant | sulphuric acid | 3.2 g | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrobenzaldehyde | 0.25 mole, 27.5 g | C(C1CCCC=C1)=O | C7H10O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyclohex-3-enyl-1,1-di-(3,3-dimethyl-2,3-dihydro-4H-1,4-benzothiazin-7-yl)-methane | C1(CC=CCC1)C(C1=CC2=C(NC(CS2)(C)C)C=C1)C1=CC2=C(NC(CS2)(C)C)C=C1 | C27H34N2S2
